US08975254B2
1-(5-((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)-1H-pyrazol-3-yl)ethyl acetate
A flask containing N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide (400 mg, 1.003 mmol) and DMAP (12.25 mg, 0.100 mmol) was put under nitrogen atmosphere. Pyridine (10 ml) was added, the reaction mixture cooled down to 0° C. and acetic anhydride (0.099 ml, 108 mg) was added dropwise. The mixture was allowed to warm to RT and stirred overnight. Next day the mixture was evaporated and purified by flash chromatography. Yield 58.9%. 1H-NMR (400 MHz; DMSO-d6): δ 1.15 (d, 3H), 1.51 (d, 3H), 2.02 (s, 3H), 4.25-4.37 (m, 2H), 4.39-4.49 (m, 1H), 5.88 (q, 1H), 6.64 (s, 1H), 6.90 (dd, 1H), 7.80 (dd, 1H), 7.91-7.96 (m, 2H), 8.04-8.07 (m, 1H), 8.15 (s, 1H), 13.24 (s, 1H).

reactant | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | 1.003 mmol, 400 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(C)O | C19H19ClN6O2
reactant | acetic anhydride | 0.099 ml, 108 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.100 mmol, 12.25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)-1H-pyrazol-3-yl)ethyl acetate | Yield 58.9% | C(C)(=O)OC(C)C1=NNC(=C1)C(N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C)=O | C21H21ClN6O3
